US08071586B2
B) (rac)-4-[3-(tert-Butyl-dimethyl-silanyloxy)-1-methoxymethyl-propyl]-5-oxo-[1,4]diazepane-1-carboxylic acid benzyl ester
1.37 g (3.04 mmol) of the above prepared (rac)-4-[3-(tert-butyl-dimethyl-silanyloxy)-1-hydroxymethyl-propyl]-5-oxo-[1,4]diazepane-1-carboxylic acid benzyl ester and 0.95 ml (15.20 mmol) of methyl iodide were dissolved in 4.8 ml of N,N-dimethylformamide. After cooling (0° C.), 0.16 g (3.65 mmol) of NaH (55% in oil) was added. The reaction was stirred for 3 h at this temperature, then poured onto crushed ice/10% aq. potassium hydrogensulfate solution and extracted with diethyl ether (3×). The organic layers were washed with 10% aq. potassium hydrogensulfate solution and 10% aq. sodium chloride solution, dried over Na2SO4 and evaporated to dryness to yield 1.36 g (96%) of the title compound as light yellow oil. MS: 465.3 (MH+).

reactant | (rac)-4-[3-(tert-butyl-dimethyl-silanyloxy)-1-hydroxymethyl-propyl]-5-oxo-[1,4]diazepane-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CCN(C(CC1)=O)C(CCO[Si](C)(C)C(C)(C)C)CO | C23H38N2O5Si
reactant | methyl iodide | 15.20 mmol, 0.95 ml | CI | CH3I
reactant | NaH | 3.65 mmol, 0.16 g | [H-].[Na+]
solvent | N,N-dimethylformamide | 4.8 ml | CN(C=O)C | C3H7NO
product | (rac)-4-[3-(tert-Butyl-dimethyl-silanyloxy)-1-methoxymethyl-propyl]-5-oxo-[1,4]diazepane-1-carboxylic acid benzyl ester | 1.36 g, 96% | C(C1=CC=CC=C1)OC(=O)N1CCN(C(CC1)=O)C(CCO[Si](C)(C)C(C)(C)C)COC | C24H40N2O5Si
